US07696226B2
2,2-dimethoxy-N-[(1-methyl-1H-benzimidazol-2-yl)methyl]ethanamine
A solution of 1-methyl-2-formylbenzimidazole (1 g) in methanol (27 mL) and acetic acid (0.54 mL) was treated with aminoacetaldehyde diethylacetal (0.9 g, 1 equivalent) and NaCNBH3 (0.85 g, 2 equivalents) at 25° C., stirred for 1 hour. The mixture was partitioned between water and ethyl acetate. The organic layer was separated, washed sequentially with saturated NaHCO3 and brine, and concentrated. The residue was purified by eluting with 8% methanol/dichloromethane to give 1.2 g (64%) of the title compound.

reactant | 1-methyl-2-formylbenzimidazole | 1 g | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
reactant | aminoacetaldehyde diethylacetal | 0.9 g, 1 equivalent | C(C)OC(CN)OCC | C6H15NO2
reactant | NaCNBH3 | 0.85 g, 2 equivalents | [BH3-]C#N.[Na+]
solvent | methanol | 27 mL | CO | CH4O
solvent | acetic acid | 0.54 mL | C(C)(=O)O | C2H4O2
product | 2,2-dimethoxy-N-[(1-methyl-1H-benzimidazol-2-yl)methyl]ethanamine | 1.2 g, 64% | COC(CNCC1=NC2=C(N1C)C=CC=C2)OC | C13H19N3O2
